US08859732B2
To methyl 3,4,5-tris(octadecyloxy)benzoate (1 g, 10.6 mmol) was added cyclohexane, 5% rhodium-carbon (0.8 g) was added, and hydrogenation was performed at 80° C., 10 atm. Tetrahydrofuran (10 ml) was added, and the catalyst was filtered off. The filtrate was concentrated, methanol (8 ml) was added, and the mixture was stirred. The precipitate was collected by filtration and dried to give methyl 3,4,5-tris(octadecyloxy)cyclohexylcarboxylate (820 mg, 0.87 mmol, 82%).

reactant | methyl 3,4,5-tris(octadecyloxy)benzoate | 10.6 mmol, 1 g | C(CCCCCCCCCCCCCCCCC)OC=1C=C(C(=O)OC)C=C(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C62H116O5
reactant | cyclohexane | C1CCCCC1 | C6H12
catalyst | rhodium-carbon | 0.8 g | [C].[Rh]
solvent | Tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methyl 3,4,5-tris(octadecyloxy)cyclohexylcarboxylate | 0.87 mmol, 820 mg, 82% | C(CCCCCCCCCCCCCCCCC)OC1CC(CC(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)C(=O)OC | C62H122O5
